US04673746
To a solution of 5 g of 2,3-dichloro-4-hydroxy-2',3'-dimethylbenzophenone oxime in 70 ml of DMF, 0.96 g of NaH is added. The internal temperature is held between 95°-120° C. for seven hours, then the mixture is heated at 130° C. for 1.5 hours. The reaction mixture is cooled and 2.94 g of ethyl bromoacetate is added dropwise. The mixture is stirred one hour and water is added dropwise. The product which forms is filtered off and recrystallized from 95% ethanol to yield ethyl-{[7-chloro-3-(2,3-dimethylphenyl)-1,2-benzisoxazol-6-yl]oxy}acetate, mp 89°-91° C.

reactant | 2,3-dichloro-4-hydroxy-2',3'-dimethylbenzophenone oxime | 5 g | ClC1=C(C(C2=C(C(=CC=C2)C)C)=NO)C=CC(=C1Cl)O | C15H13Cl2NO2
reactant | NaH | 0.96 g | [H-].[Na+]
reactant | ethyl bromoacetate | 2.94 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | ethyl-{[7-chloro-3-(2,3-dimethylphenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | C(C)OC(COC1=C(C2=C(C(=NO2)C2=C(C(=CC=C2)C)C)C=C1)Cl)=O | C19H18ClNO4
